US07528173B2
To a solution of α-hydroxy-3-nitrobenzeneacetonitrile (27.8 g, 156.1 mmol) in 500 mL of ether was added methanol (7.6 mL, 187.3 mmol). Hydrogen chloride gas was bubbled into the solution until it was saturated. The solution changed to a heterogeneous solution. The solution was cooled to 0° C. and filtered to collect the solid. The filtrate was extracted with methylene chloride, dried over sodium sulfate, filtered and concentrated to afford 25.0 g (76%) of 2-hydroxy-2-(3-nitrophenyl)ethanoic acid methyl ester, a compound of formula (S), as a yellow solid.

reactant | α-hydroxy-3-nitrobenzeneacetonitrile | 156.1 mmol, 27.8 g | OC(C#N)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6N2O3
reactant | methanol | 187.3 mmol, 7.6 mL | CO | CH4O
reactant | ether | 500 mL | CCOCC | C4H10O
product | 2-hydroxy-2-(3-nitrophenyl)ethanoic acid methyl ester | 25.0 g, 76% | COC(C(C1=CC(=CC=C1)[N+](=O)[O-])O)=O | C9H9NO5
